US07935703B2
2-Benzyloxy-1-[4-(2,4-dichloro-phenyl)-4-hydroxy-piperidin-1-yl]-ethanone
To a solution of 4-(2,4-dichloro-phenyl)-piperidin-4-ol (0.10 g, 0.40 mmol) in dichloromethane (2 mL) was added diisopropyl ethylamine (0.073 mL, 0.42 mmol) followed by benzyloxy acetyl chloride (0.078 g, 0.42 mmol). The reaction mixture was stirred at room temperature for 1 hour. The reaction mixture was diluted with dichloromethane (10 mL) and washed with saturated aqueous sodium bicarbonate (10 mL). The organic layer was dried over sodium sulfate, filtered and concentrated in vacuo. The residual oil was chromatographed on silica gel using dichloromethane/methanol from 100% to 97% dichloromethane in a gradient fashion, to give the title compound as a glassy solid. The material was used as is without further purification. 1H NMR (300 MHz, CDCl3): δ 7.35 (m, 8H), 4.58 (m, 3H), 4.22 (m, 2H), 3.86 (bm, 1H), 3.57 (bm, 1H), 3.13 (bm, 1H), 2.64 (s, 1H), 2.26 (m, 2H), 1.97 (m, 2H).

reactant | 4-(2,4-dichloro-phenyl)-piperidin-4-ol | 0.40 mmol, 0.10 g | ClC1=C(C=CC(=C1)Cl)C1(CCNCC1)O | C11H13Cl2NO
reactant | diisopropyl ethylamine | 0.42 mmol, 0.073 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyloxy acetyl chloride | 0.42 mmol, 0.078 g | C(C1=CC=CC=C1)OCC(=O)Cl | C9H9ClO2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-Benzyloxy-1-[4-(2,4-dichloro-phenyl)-4-hydroxy-piperidin-1-yl]-ethanone | C(C1=CC=CC=C1)OCC(=O)N1CCC(CC1)(O)C1=C(C=C(C=C1)Cl)Cl | C20H21Cl2NO3
